US03960911
This brown oil (ferrocenoyl valeroyl chloride) assumed to be 0.01 mole from the above preparation in methylene chloride (100 ml) was stirred at 0°-5° and aluminium chloride (1.3g; 0.01 mole) was added. Ice was then added and the organic layer was separated. The aqueous layer was extracted with chloroform. The combined organic fractions were washed with water, dried (magnesium sulphate) and evaporated to yield a red oil which was purified by dry-column chromatography on silica, which had been deactivated to Grade III by the addition of water, using 1:10 ethylacetate: petroleum ether as eluent, to yield pure 1-chloro-2-ferrocenoylcyclopent-1-ene, 150 mg; mp 102°.

reactant | ferrocenoyl valeroyl chloride | [C-]1(C=CC=C1)C(=O)CCCCC(=O)Cl.[CH-]1C=CC=C1.[Fe+2]
reactant | aluminium chloride | 0.01 mole, 1.3g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-2-ferrocenoylcyclopent-1-ene | ClC1=C(CCC1)C(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C11H10ClO.C5H5.Fe/c12-10-7-3-6-9(10)11(13)8-4-1-2-5-8;1-2-4-5-3-1;/h1-2,4-5H,3,6-7H2;1-5H;/q2*-1;+2
